US07087597B1
2-chloro-4-methoxybenzyl chloride
To a solution of 2-chloro-4-methoxybenzyl alcohol (1.5 g, 8.7 mmol) in dichloromethane (10 mL) were added under ice-cooling triethylamine (2.4 mL, 17.4 mmol) and methanesulfonyl chloride (0.74 mL, 9.5 mmol) and the mixture was stirred at room temperature for 2 h. The solvent was evaporated under reduced pressure and the obtained residue was dissolved in ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give an almost pure title compound (1.01 g, 61%).

reactant | 2-chloro-4-methoxybenzyl alcohol | 8.7 mmol, 1.5 g | ClC1=C(CO)C=CC(=C1)OC | C8H9ClO2
reactant | triethylamine | 17.4 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.5 mmol, 0.74 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-chloro-4-methoxybenzyl chloride | 1.01 g, 61% | ClC1=C(CCl)C=CC(=C1)OC | C8H8Cl2O
